US09314464B2
To a solution of Intermediate (S)-methyl 1-hydroxypropan-2-ylcarbamate (2.65 g, 20 mmol) and triethylamine (7.0 ml, 50 mmol) in anhydrous dichloromethane (100 mL) was added methanesulfonyl chloride (1.91 mL, 23.9 mmol). The mixture was stirred at rt for 3 h and was then extracted with ethyl acetate. The organic layer was washed with 1N sodium hydroxide solution and brine, and was then dried over sodium sulfate, filtered and concentrated. The crude mesylate product was then dissolved in dry DMF (70 mL) and sodium azide (5.2 g, 80 mmol) was added. The mixture was heated with stirring at 80° C. for 2 h. The cooled reaction mixture was concentrated and the residue was partitioned between ethyl acetate and brine. The organic layer was separated and washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (8:1 hexane/ethyl acetate eluant) to afford (S)-methyl 1-azidopropan-2-ylcarbamate. MS m/z 159.1 (M+1).

reactant | (S)-methyl 1-hydroxypropan-2-ylcarbamate | 20 mmol, 2.65 g | OC[C@H](C)NC(OC)=O | C5H11NO3
reactant | triethylamine | 50 mmol, 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 23.9 mmol, 1.91 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 80 mmol, 5.2 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-methyl 1-azidopropan-2-ylcarbamate | N(=[N+]=[N-])C[C@H](C)NC(OC)=O | C5H10N4O2
